US04191762
To a suspension of 2-methyl-7-[2-(2-formylaminothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 2-methyl-7-[2-(2-formylimino-2,3-dihydrothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (3.0 g.) in methanol (60 ml.) was added dropwise phosphorus oxychloride (2.55 L g.) under ice-cooling and stirring, and the mixture was stirred for 3.5 hours at the same temperature and then for 30 minutes at room temperature. After the reaction, the reaction mixture was poured into diethyl ether (400 ml.). The precipitates were collected by filtration, washed with diethyl ether and then dried to give 2-methyl-7-[2-(2-aminothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride, which can be represented as 2-methyl-7-[2-(2-imino-2,3-dihydrothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride (2.2 g.), mp >270° C.

reactant | 2-methyl-7-[2-(2-formylaminothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)NC=O)=O)=O | C14H12N4O6S2
reactant | 2-methyl-7-[2-(2-formylimino-2,3-dihydrothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(=O)C=2NC(SC2)=NC=O)=O)=O | C14H12N4O6S2
reactant | phosphorus oxychloride | 2.55 L | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | methanol | 60 ml | CO | CH4O
product | 2-methyl-7-[2-(2-aminothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride | Cl.CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)N)=O)=O | InChI=1S/C13H12N4O5S2.ClH/c1-4-2-6(12(21)22)17-10(20)7(11(17)24-4)16-9(19)8(18)5-3-23-13(14)15-5;/h2-4,7,11H,1H3,(H2,14,15)(H,16,19)(H,21,22);1H/t4?,7?,11-;/m1./s1
